US06777557B2
3-[2-Oxo-2-phenylethyl]-2-(1-acetoxyethyl)thiazolium bromide
1-(2-Thiazolyl)ethyl acetate (0.8 g, 4.67 mmole) and 2-bromo-1-phenyl-1-ethanone (0.93 g, 4.67 mmole) were combined and stirred at room temp. for 5 days. The viscous mixture was dissolved in acetonitrile (5 mL), diluted with ether (3 mL), and stored overnight at 4 C. The resulting crystals (1.5 g) were recrystallized from acetonitrile/ether to afford 0.97 g of the title compound, mp 155-156 C.

reactant | 1-(2-Thiazolyl)ethyl acetate | 4.67 mmole, 0.8 g | C(C)(=O)OC(C)C=1SC=CN1 | C7H9NO2S
reactant | 2-bromo-1-phenyl-1-ethanone | 4.67 mmole, 0.93 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | ether | 3 mL | CCOCC | C4H10O
product | 3-[2-Oxo-2-phenylethyl]-2-(1-acetoxyethyl)thiazolium bromide | 0.97 g | [Br-].O=C(C[N+]1=C(SC=C1)C(C)OC(C)=O)C1=CC=CC=C1 | InChI=1S/C15H16NO3S.BrH/c1-11(19-12(2)17)15-16(8-9-20-15)10-14(18)13-6-4-3-5-7-13;/h3-9,11H,10H2,1-2H3;1H/q+1;/p-1
